US04110455
6-(o-chloro-phenyl)-8-chloro-5,6-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine
29 grams of 6-(o-chloro-phenyl)-8-chloro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine were hydrogenated in 500 ml. of dimethyl formamide in the presence of 20 grams of Raney-nickel at 50 atmospheres absolute at 60°-70° C. The filtrate was evaporated, the residue stirred with water and shaken with chloroform. The chloroform residue was stirred with methanol and the thus obtained crystalline reaction product first crystallized from dioxane-gasoline and then recrystallized from methyl ethyl ketone-gasoline. M.P. 206°-208° C.; Yield 10 grams.

reactant | 6-(o-chloro-phenyl)-8-chloro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | 29 grams | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1N=C(C=C3)Cl)C=NN2 | C15H9Cl2N5
catalyst | Raney-nickel | 20 grams | [Ni] | Ni
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 6-(o-chloro-phenyl)-8-chloro-5,6-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | ClC1=C(C=CC=C1)C1NCC=2N(C3=C1N=C(C=C3)Cl)C=NN2 | C15H11Cl2N5
